US09216991B2
Step 2: Formation of 2-[3-(1-Methyl-1H-[1,2,3]triazol-4-yl)-phenyl]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyrimidine hydrochloride
Tetrabutylammonium fluoride (56 mg; 0.21 mmol; 2.0 eq.) was added to a solution of 4-(4-{2-[3-(1-Trimethylsilanylmethyl-1H-[1,2,3]triazol-4-yl)-phenyl]-pyrimidin-5-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (60 mg; 0.11 mmol; 1.0 eq.) in THF (1 mL) and the reaction mixture was stirred at RT for 2 h. It was then diluted with a saturated solution of NaHCO3 and extracted with EtOAc (three times). Combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated. The crude obtained was dissolved in DCM (1 mL) and MeOH (MeOH) and HCl/dioxane (0.4 mL of a 4N solution, 1.6 mmol, 15 eq.) was added. The reaction mixture was stirred at RT for 2 h, concentrated under reduced pressure and purified by autopreparative LC/Ms to give the title compound as a beige solid (15 mg, 33%). 1H NMR (300 MHz, DMSO-d6) δ 9.22 (s, 2H), 9.11 (brs, 1H), 8.94-8.81 (m, 2H), 8.67 (s, 1H), 8.54 (s, 1H), 8.35 (dt, J=7.9 Hz, 1.5 Hz, 1H), 8.22 (s, 1H), 7.96 (dt, J=7.9 Hz, 1.5 Hz, 1H), 7.61 (t, J=7.9 Hz, 1H), 4.61-4.52 (m, 1H), 4.12 (s, 3H), 3.43-3.36 (m, 2H), 3.16-3.06 (m, 2H), 2.28-2.11 (m, 4H). HPLC (Condition A): Rt 2.08 min (purity 98.5%). MS (ESI+): 387.3.

reactant | Tetrabutylammonium fluoride | 0.21 mmol, 56 mg, 2.0 eq. | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-(4-{2-[3-(1-Trimethylsilanylmethyl-1H-[1,2,3]triazol-4-yl)-phenyl]-pyrimidin-5-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.11 mmol, 60 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC(=NC1)C1=CC(=CC=C1)C=1N=NN(C1)C[Si](C)(C)C | C29H38N8O2Si
reactant | MeOH | CO | CH4O
reactant | HCl dioxane | Cl.O1CCOCC1
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-(1-Methyl-1H-[1,2,3]triazol-4-yl)-phenyl]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyrimidine hydrochloride | 15 mg, 33% | Cl.CN1N=NC(=C1)C=1C=C(C=CC1)C1=NC=C(C=N1)C=1C=NN(C1)C1CCNCC1 | InChI=1S/C21H22N8.ClH/c1-28-14-20(26-27-28)15-3-2-4-16(9-15)21-23-10-17(11-24-21)18-12-25-29(13-18)19-5-7-22-8-6-19;/h2-4,9-14,19,22H,5-8H2,1H3;1H
